US04237323
128 g (1 mole) of naphthalene are dissolved in 102 g (1 mole) of acetic anhydride in an apparatus with a stirrer and a means for the supply of sulphuric acid, a dephlegmator, cooler and vacuum-receiver. Then 98 g (1 mole) of a 100% sulphuric acid are added to the solution of naphthalene in acetic anhydride for 60 minutes at a temperature of 60° C. The removal of the forming acetic acid is effected under vacuum under a residual pressure of 1 to 10 mm Hg. After discontinuation of distillation of acetic acid, i.e. on completion of the reaction of naphthalene sulphonation, there are obtained 208 g (1 mole) of naphthalene-α-sulphonic acid and 118 g (2 moles) of glacial acetic acid. The resulting naphthalene-α-sulphonic acid is poured to 224 g (4 moles) of a preliminary prepared melt of potassium hydroxide having a temperature of 180° C. under vigorous stirring. Then the melt temperature is raised to 285° C. for 5 minutes and the melt is maintained at this temperature for 5 minutes to complete the fusion process. On expiration of 10 minutes, the melt is cooled to a temperature of 80° C., diluted with 200 g of water and the resulting aqueous solution containing potassium α-naphtholate and potassium sulphite is supplied into a mixer provided with a cooling jacket, whereinto a solution of 98 g (1 mole) of sulphuric acid in 400 g of water has been preliminarily charged. Then the resulting mixture is cooled to a temperature of 10° C. and the precipitated α-naphthol is separated from the aqueous solution of the mixture of potassium sulphite, potassium sulphate and non-precipitated α-naphthol and β-naphthol by filtration. The yield of α-naphthol with a purity of 99.5% is 115 g (0.8 mole) as calculated for the employed naphthalene which corresponds to 80% of the theoretical value. The filtrate is treated with an equal volume of carbon tetrachloride and, after separation of the aqueous layer and distilling-off carbon tetrachloride, there are obtained 25 g (0.17 mole) of α-naphthol with a purity of 95%. The total yield of α-naphthol is 97% of the theoretical as calculated for the employed naphthalene.

reactant | naphthalene | 1 mole, 128 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 2 moles, 118 g | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 1 mole, 102 g | C(C)(=O)OC(C)=O | C4H6O3
product | naphthalene-α-sulphonic acid | 1 mole, 208 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
